US05190909
i. 1-Phenyl-3-(4-dimethylaminophenyl)-1-oxo-prop-2-ene
Acetophenone (28.0 g, 0.15 mole) and 4-dimethylaminobenzaldehyde (22.35 g, 0.15 mole) were dissolved in methanol (150 ml) in a 500 ml, 3-necked round bottom flask. The flask was wrapped in aluminium foil to exclude light and was fitted with a mechanical stirrer and a water cooled condenser. The third neck was stoppered and used to obtain samples for monitoring during the reaction. Aqueous sodium hydroxide solution (50 ml of 30% w/v) was added dropwise to the vigorously stirred clear methanolic solution. A yellow/orange solid started separating from the reaction solution (which had turned orange) after about 24 hours. Stirring was continued for about 48 hours at ambient temperature and the intermediate title compound was isolated by vacuum filtration, washed successively with water, methanol and petroleum ether (40-60° C.) and dried in vacuo to give 23.3 g (62% of theory) of 1-phenyl-3-(4-dimethylaminophenyl)-1-oxo-prop-2-ene with a melting point of 112-114° C.

reactant | Acetophenone | 0.15 mole, 28.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 4-dimethylaminobenzaldehyde | 0.15 mole, 22.35 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | aluminium | [Al] | Al
product | 1-Phenyl-3-(4-dimethylaminophenyl)-1-oxo-prop-2-ene | C1(=CC=CC=C1)C(C=CC1=CC=C(C=C1)N(C)C)=O | C17H17NO
